US07217710B2
Preparation of [3-(4-Amino-phenyl)-1-methyl-1H-pyrazolo[3,4-d]pyrimidin-6-yl]-(2-methoxy-ethyl)-amine
Prepared as described above in Example 15 starting from (3-chloro-1-methyl-1H-pyrazolo[3,4-d]pyrimidin-6-yl)-(2-methoxy-ethyl)-amine and 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline to give the title compound [3-(4-amino-phenyl)-1-methyl-1H-pyrazolo[3,4-d]pyrimidin-6-yl]-(2-methoxy-ethyl)-amine; LC/MS (m/e)=299.0 (MH+), Rt=1.42 min.

reactant | (3-chloro-1-methyl-1H-pyrazolo[3,4-d]pyrimidin-6-yl)-(2-methoxy-ethyl)-amine | ClC1=NN(C2=NC(=NC=C21)NCCOC)C | C9H12ClN5O
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
product | [3-(4-amino-phenyl)-1-methyl-1H-pyrazolo[3,4-d]pyrimidin-6-yl]-(2-methoxy-ethyl)-amine | NC1=CC=C(C=C1)C1=NN(C2=NC(=NC=C21)NCCOC)C | C15H18N6O
